US07199244B2
N-(7-Piperidin-1-ylmethyl-chroman-4-(R)-yl)-2-[1-(3-trifluoromethyl-benzenesulfonyl)-piperidin-2-yl]-acetamide
N-(7-Formyl-chroman-4-(R)-yl)-2-[1-(3-trifluoromethyl-benzenesulfonyl)-piperidin-2-yl]-acetamide (135 mg, 0.26 mmol) and piperidine (28 mg, 0.33 mmol) were added to N,N-dimethyl-acetamide (1.5 mL) solution, followed by NaBH(OAc)3 (115 mg, 0.52 mmol) and the reaction was stirred overnight (14 h). The reaction was quenched with dilute NaHCO3—H2O (10 mL), and the mixture was extracted with CH2Cl2 (2×10 mL), and the organic phase was washed with dilute NaHCO3—H2O and H2O, and dried over MgSO4. After filtration and concentration in vacuo, the crude was purified by precipitation and crystallization as the HCl salt in Et2O to provide a white solid (of the title compound as a mixture of diastereomers (ca. 1:1 by 1H NMR). MS (ESI) 580 (M+H)+.

reactant | N-(7-Formyl-chroman-4-(R)-yl)-2-[1-(3-trifluoromethyl-benzenesulfonyl)-piperidin-2-yl]-acetamide | 0.26 mmol, 135 mg | C(=O)C1=CC=C2[C@@H](CCOC2=C1)NC(CC1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)=O | C24H25F3N2O5S
reactant | piperidine | 0.33 mmol, 28 mg | N1CCCCC1 | C5H11N
reactant | NaBH(OAc)3 | 0.52 mmol, 115 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | N,N-dimethyl-acetamide | 1.5 mL | CN(C(C)=O)C | C4H9NO
product | N-(7-Piperidin-1-ylmethyl-chroman-4-(R)-yl)-2-[1-(3-trifluoromethyl-benzenesulfonyl)-piperidin-2-yl]-acetamide | N1(CCCCC1)CC1=CC=C2[C@@H](CCOC2=C1)NC(CC1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)=O | C29H36F3N3O4S
